US04053601
6-[5-Acetamido-2-(3-t-butylamino-2-hydroxypropoxy)phenyl]-4,5-dihydro-3(2H)-pyridazinone was reacted with chloranil in boiling butanol to give 6-[5-acetamido-2-(3-t-butylamino-2-hydroxypropoxy)phenyl]-3(2H)-pyridazinone.

reactant | 6-[5-Acetamido-2-(3-t-butylamino-2-hydroxypropoxy)phenyl]-4,5-dihydro-3(2H)-pyridazinone | C(C)(=O)NC=1C=CC(=C(C1)C=1CCC(NN1)=O)OCC(CNC(C)(C)C)O | C19H28N4O4
reactant | chloranil | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
solvent | butanol | C(CCC)O | C4H10O
product | 6-[5-acetamido-2-(3-t-butylamino-2-hydroxypropoxy)phenyl]-3(2H)-pyridazinone | C(C)(=O)NC=1C=CC(=C(C1)C=1C=CC(NN1)=O)OCC(CNC(C)(C)C)O | C19H26N4O4
